* source 202PD1
V_V1         N00236 0  AC 0
+SIN 0 415 60.03Hz 0 0 0
R_R1         N00349 N00236  6.2 TC=0,0 
R_R2         N00353 N00236  3.4 TC=0,0 
R_R3         N00357 N00236  0.9 TC=0,0 
R_R4         N00361 N00236  7.2 TC=0,0 
R_R5         N00365 N00236  0.9 TC=0,0 
L_L1         N00349 0  10.61mH  
L_L2         N00353 0  14.32mH  
L_L3         N00357 0  1.59mH  
L_L4         N00361 0  21.22mH  
L_L5         N00365 0  4.77mH  
C_C1         0 N00236  2.13mF  TC=0,0 
