* source CE207-PD1
R_R2         N00301 N00294  10k TC=0,0 
R_R3         0 N00301  10k TC=0,0 
R_R4         N00294 N00372  4.7k TC=0,0 
R_R5         N00372 N00436  100k TC=0,0 
R_R6         0 N00354  10k TC=0,0 
C_C1         0 N00276  10u  TC=0,0 
C_C2         N00436 N00372  1u  TC=0,0 
X_U1         N00301 N00276 N01356 N03127 N00294 uA741
X_U2         N00354 N00372 N01362 N02217 N00436 uA741
V_V1         0 N02217 12V
V_V2         N01362 0 12V
V_V3         N01356 0 12V
R_R1         N00276 N00294  1k TC=0,0 
V_V4         0 N03127 12V
